US06936602B1
In THF (6.4 ml)/methanol (3.2 ml) was dissolved methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(1-methyltetrazol-5-ylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylate (0.32 g). To the solution was added 1N sodium hydroxide solution (3.2 ml), and the mixture was stirred at room temperature for 14 hours. pH was adjusted to approximate 4 with 1N hydrochloric acid, and the solvent was concentrated to half under reduced pressure. The concentrated material was extracted with ethyl acetate/THF, and the extract was washed with saturated brine and dried with magnesium sulfate. The solvent was removed under reduced pressure, and the resulting residue was washed with hexane/ethyl acetate (5/1) to give 7-[4-(2-butoxyethoxy)phenyl]-1-(1-methyltetrazol-5-ylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid (0.25 g).

reactant | methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(1-methyltetrazol-5-ylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 0.32 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC2=NN=NN2C)C(=O)OC)C1 | C27H33N5O4
reactant | sodium hydroxide | 1N, 3.2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 6.4 ml | C1CCOC1 | C4H8O
solvent | methanol | 3.2 ml | CO | CH4O
product | 7-[4-(2-butoxyethoxy)phenyl]-1-(1-methyltetrazol-5-ylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid | 0.25 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC2=NN=NN2C)C(=O)O)C1 | C26H31N5O4
